US04041173
A solution of 1.49 g. of 2-carbomethoxy-9-fluoro-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene and 0.94 g. of N-bromosuccinimide in 100 ml of carbon tetrachloride was refluxed and irradiated with a 100 W incandescent lamp for 22 hours. The cooled solution was filtered and evaporated, and the residue dissolved in 25 ml of dimethylformamide. 1.5 Ml of diazabicyclononene was added and the mixture heated to 80° for 1 hours, then poured into dilute hydrochloric acid. The mixture was extracted with ethyl acetate and the extract washed, dried and evaporated. The residue was refluxed for 2 hours in 50 ml of water and 25 ml of methanol containing 1.5 g. of sodium hydroxide. The solution was cooled, acidified and filtered. The residue was recrystallized from aqueous dimethylformamide to yield 2-carboxy-9-fluoro-5-oxo-5H-dibenzo[a,d]cycloheptene, mp 340° (decomp.)

reactant | 2-carbomethoxy-9-fluoro-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene | C(=O)(OC)C1=CC2=C(C(C3=C(CC2)C(=CC=C3)F)=O)C=C1 | C17H13FO3
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-carboxy-9-fluoro-5-oxo-5H-dibenzo[a,d]cycloheptene | C(=O)(O)C1=CC2=C(C(C3=C(C=C2)C(=CC=C3)F)=O)C=C1 | C16H9FO3
